US08557872B2
To a solution of N-methoxy-N-methyl-2-propyl-4-trifluoromethyl-benzamide (230 mg, 0.84 mmol) in THF (15 mL) was added dropwise 1.0M LiAlH4 (0.42 mL, 0.42 mmol) at −78° C. The mixture was warmed up to −20° C. and stirred for 30 mins. An aqueous solution of sodium potassium tartrate (10% w/v) was added to the reaction mixture and the resulting mixture was vigorously stirred for 30 mins, to which was added Et2O. After separation of two phases, the aqueous layer was extracted three times with ether and the combined organic layer was washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The product was vacuum dried to yield the 2-propyl-4-trifluoromethyl-benzaldehyde.

reactant | N-methoxy-N-methyl-2-propyl-4-trifluoromethyl-benzamide | 0.84 mmol, 230 mg | CON(C(C1=C(C=C(C=C1)C(F)(F)F)CCC)=O)C | C13H16F3NO2
reactant | LiAlH4 | 0.42 mmol, 1.0M, 0.42 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-propyl-4-trifluoromethyl-benzaldehyde | C(CC)C1=C(C=O)C=CC(=C1)C(F)(F)F | C11H11F3O
